US05216167
2-Ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonyl-methyl]-benzoic acid
0.25 g (0.47 mmol) of benzyl 2-ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate was hydrogenated in 10 ml of ethanol with 0.12 g of 10% palladium-on-charcoal at 50 and a pressure of 5 bar of hydrogen. After 5 hours the catalyst was filtered off through diatomaceous earth, and the filtrate was evaporated in vacuo. The evaporation residue was crystallized from petroleum ether/ethanol.

reactant | benzyl 2-ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate | 0.47 mmol, 0.25 g | C(C)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C33H40N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.12 g | [Pd] | Pd
product | 2-Ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonyl-methyl]-benzoic acid | C(C)OC1=C(C(=O)O)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C26H34N2O4
